US05128356
N-(2'-Cyanobiphenyl-4-yl)methyl-N-(2-methoxy-6-nitrophenyl)valeramide
To a solution of N-(2-methoxy-6-nitrophenyl)valeramide (3.2 g) in DMF (15 ml) was added, under ice-cooling, sodium hydride (60% oil, 0.61 g). The mixture was stirred for 20 minutes and then there was added 4-(2-cyanophenyl)benzyl bromide (3.5 g), followed by stirring for one hour at room temperature. To the reaction mixture was added water, which was extracted with ethyl acetate. The organic layer was washed with water and dried. The solvent was distilled off, and the residue was purified by column chromatography on silica gel to give a yellow oil (5.8 g, quantitatively).

reactant | N-(2-methoxy-6-nitrophenyl)valeramide | 3.2 g | COC1=C(C(=CC=C1)[N+](=O)[O-])NC(CCCC)=O | C12H16N2O4
reactant | sodium hydride | 0.61 g | [H-].[Na+]
reactant | 4-(2-cyanophenyl)benzyl bromide | 3.5 g | C(#N)C1=C(C=CC=C1)C1=CC=C(CBr)C=C1 | C14H10BrN
reactant | water | O | H2O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | N-(2'-Cyanobiphenyl-4-yl)methyl-N-(2-methoxy-6-nitrophenyl)valeramide | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CN(C(CCCC)=O)C1=C(C=CC=C1[N+](=O)[O-])OC | C26H25N3O4
